US07220856B2
4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one (145 mg, 0.4 mmol), sodium hydride (15 mg, 0.6 mmol), N-phenyl(trifluoromethylsulfon)imide (202 mg, 0.56 mmol), and N,N-dimethylethylenediamine (276 μL, 2.4 mmol) are treated according to method E yielding 98 mg of 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-[2-(dimethylamino)ethylamino]quinoline. 38 mg thereof are treated with TFA-CH2Cl2 1:1 (0.6 mL) for 1 h and concentrated. The residue is converted into the title product with 4-fluorophenyl isocyanate (16 μL) and triethylamine (120 μL).

reactant | 4-[4-(tert-Butoxycarbonyl)piperazin-1-yl]-7-chloroquinol-2-one | 0.4 mmol, 145 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(NC2=CC(=CC=C12)Cl)=O | C18H22ClN3O3
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
reactant | N,N-dimethylethylenediamine | 2.4 mmol, 276 μL | CN(CCN)C | C4H12N2
product | 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloro-2-[2-(dimethylamino)ethylamino]quinoline | 98 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)NCCN(C)C | C22H32ClN5O2
